US05387685
2-[6-(3,4-Dimethoxyphenyl)-6-[(4-methylphenyl)thio]-hexyl]-1,2,3,4-tetrahydro-6-methoxyisoquinoline
To a solution of 4.23 g of 4-[6-bromo-1-[(4-methylphenyl)thio]hexyl]-1,2-dimethoxybenzene in 40 mL of acetonitrile is added 3.88 g of 6-methoxy-1,2,3,4-tetrahydroisoquinoline, 1.74 mL of diisopropylethylamine and 0.01 g of sodium iodide. The solution is heated to reflux for 43 hours and cooled to room temperature. The reaction mixture is partitioned between chloroform and aqueous potassium carbonate and the organic layer is dried over magnesium sulfate. The volatiles are removed at reduced pressure and the residue chromatographed on silica gel using a gradient elution of hexane to chloroform to methyl alcohol. The residue from the chromatography is dissolved in diethyl ether and passed through diatomaceous earth. This affords 4.4 g of the desired product as a yellow oil.

reactant | 4-[6-bromo-1-[(4-methylphenyl)thio]hexyl]-1,2-dimethoxybenzene | 4.23 g | BrCCCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C21H27BrO2S
reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline | 3.88 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | diisopropylethylamine | 1.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 0.01 g | [I-].[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-[6-(3,4-Dimethoxyphenyl)-6-[(4-methylphenyl)thio]-hexyl]-1,2,3,4-tetrahydro-6-methoxyisoquinoline | COC=1C=C(C=CC1OC)C(CCCCCN1CC2=CC=C(C=C2CC1)OC)SC1=CC=C(C=C1)C | C31H39NO3S
